US07259183B2
363 mg (1.15 mmol) of trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester (prepared as described in example S80) and 440 mg (2.29 mmol) of 2-(3,4-dichloro-phenyl) ethyl amine were dissolved in 5.8 ml DMF. Under argon at rt 7.7 mg (0.035 mmol) of palladium acetate and 14.1 mg (0.035 mmol) of dppp were added. The reaction mixture was evacuated and charged with carbon monoxide gas three times. The reaction mixture was heated to 70° C. under a carbon monoxide atmosphere for 1 h. Water was added and the reaction mixture was extracted twice with EtOAc. The combined organic layers were washed with 1N aqueous HCl solution, once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (45 g silica gel; heptane/EtOAc 7:3) to yield 255 mg (58%) of 4-tert-butyl-2-chloro-N-[2-(3,4-dichloro-phenyl)-ethyl]-benzamide as a white solid. 1H NMR (DMSO-d6, 300 MHz): δ 8.41 (t, 1H), 7.55 (d, 1H), 7.54 (s, 1H), 7.42 (s, 1H), 7.38 (d, 1H), 7.28-7.23 (m, 2H), 3.46 (q, 2H), 2.83 (t, 2H), 1.27 (s, 9H).

reactant | trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester | 1.15 mmol, 363 mg | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl | C11H12ClF3O3S
reactant | 2-(3,4-dichloro-phenyl) ethyl amine | 2.29 mmol, 440 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | DMF | 5.8 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.035 mmol, 7.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | dppp | 0.035 mmol, 14.1 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
product | 4-tert-butyl-2-chloro-N-[2-(3,4-dichloro-phenyl)-ethyl]-benzamide | 255 mg, 58% | C(C)(C)(C)C1=CC(=C(C(=O)NCCC2=CC(=C(C=C2)Cl)Cl)C=C1)Cl | C19H20Cl3NO
